spice
* PMOS Transistors (M1-M4)
M1 4 8 8 8 PMOS
? Missing component
M3 4 3 3 3 PMOS
M4 4 3 3 3 PMOS
* NMOS Transistors (M5-M8)
M5 2 2 10 10 NMOS
M6 3 3 3 11 NMOS
M7 2 2 10 10 NMOS
M8 3 3 3 11 NMOS
* Model definitions
.model PMOS PMOS
.model NMOS NMOS
.end
